*$
* TLVx376
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: TLVx376
* Date: 03JUN2022
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS755 -OCTOBER 2016
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.3
*
*****************************************************************************
*
* Updates:
*
* Final 1.3
* 1. Modified the capacitor(C14) value from 1F to 1uF in GND Float-IQ block  
*    to resolve the convergence issue in single and asymmetric supply test.
* 2. Resolved bump in Aol curve at lower frequency by shifting Zo First pole
*    nearer to Aol First pole.
*
* Final 1.2
* Updated with unique subckt name, Vos drift, Current Noise and edits in claw block
*
* Final 1.1 
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
*    a. OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
*    b. UNITY GAIN BANDWIDTH (GBW)
*    c. INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
*    d. POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
*    e. DIFFERENTIAL INPUT IMPEDANCE (Zid)
*    f. COMMON-MODE INPUT IMPEDANCE (Zic)
*    g. OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
*    h. OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
*    i. INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
*    j. INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
*    k. OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
*    l. SHORT-CIRCUIT OUTPUT CURRENT (Isc)
*    m. QUIESCENT CURRENT (Iq)
*    n. SETTLING TIME VS. CAPACITIVE LOAD (ts)
*    o. SLEW RATE (SR)
*    p. SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
*    q. LARGE SIGNAL RESPONSE
*    r. OVERLOAD RECOVERY TIME (tor)
*    s. INPUT BIAS CURRENT (Ib)
*    t. INPUT OFFSET CURRENT (Ios)
*    u. INPUT OFFSET VOLTAGE (Vos)
*    v. INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
*    w. INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
*    x. INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
*    y. INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
* 2. TLVx376 model is available in single core(TLV376), dual core(TLV2376) 
*    and quad core(TLV4376)
*****************************************************************************
.SUBCKT TLVx376 IN+ IN- VCC VEE OUT  
*****************************************************************************
C_C1          N5296613 N5296623  60.3F   
C_C10         N5298247 N5298259  11U   
C_C123        N5296633 N5296643  62.4P   
C_C13         N5302951 0  1F   
C_C14         0 N5302475  1U   
C_C146        N5719031 N5665974  344F   
C_C147        N5298821 MID  10.4F   
C_C148        N57803740 MID  26.5P   
C_C15         N5302991 0  1F   
C_C152        N5896474 N5896484  60.3F   
C_C153        N5905339 N5905349  344F   
C_C154        N5785671 N5299107  265F   
C_C16         N5301567 MID  1F   
C_C17         N5302227 MID  1F   
C_C18         N5301581 MID  1F   
C_C19         N5302261 MID  1F   
C_C20         N5301595 MID  1F   
C_C21         N5302295 MID  1F   
C_C22         MID N5301537  1F   
C_C23         N5303823 MID  1F   
C_C24         N5304615 MID  1F   
C_C25         N5304181 MID  1P   
C_C26         N5304435 MID  1P   
C_C27         SW_OL_TLVx376 MID  1P   
C_C29         VIMON MID  1N   
C_C30         VOUT_S MID  1N   
C_C4          N5299343 MID  1F   
C_C5          CLAMP MID  140N   
C_C70         VCLP MID  100P   
C_C_COM0      ESDP MID  13P   
C_C_COM1      MID ESDN  13P   
C_C_DIFF      ESDN ESDP  6.5P   
E_E1          MID 0 N5302475 0 1
E_E3          N5297811 MID OUT MID 1
E_E4          N5297995 MID CL_CLAMP MID 1
G_G1          N5296613 MID ESDP MID -1.68M
G_G104        N5298821 MID VSENSE MID -1U
G_G107        CLAW_CLAMP MID N5298821 MID -1M
G_G108        CL_CLAMP MID CLAW_CLAMP MID -1M
G_G111        N5665974 MID VCC_B MID -342U
G_G112        N5781207 MID N5298259 MID -661.54
G_G113        N5785671 MID N5783853 MID -1
G_G116        N5896474 MID N5296623 MID -1
G_G117        N5859234 MID N5896484 MID -53.03
G_G118        N5905349 MID N5719031 MID -1
G_G119        N5296765 MID N5905339 MID -71.43
G_G18         VCC_B 0 VCC 0 -1
G_G19         VEE_B 0 VEE 0 -1
G_G2          N5297947 N5297941 N5859234 MID -1M
G_G20         VCC_CLP MID N5303823 MID -1M
G_G21         VEE_CLP MID N5304615 MID -1M
G_G22         N5304315 MID N5304303 MID -1
G_G23         N5304383 MID N5304405 MID -1
G_G39         N5298247 MID CL_CLAMP N5298565 -89.3
G_G5          N5297697 N5297689 N5296765 N5296643 -1M
G_G6          VSENSE MID CLAMP MID -1M
G_G96         N5296633 MID VEE_B MID -46.92M
I_I_B         N5298577 MID DC 300F  
I_I_OS        ESDN MID DC 100F  
I_I_Q         VCC VEE DC 815U  
R_R15         N5297689 N5297947 R_NOISELESS 1M
R_R16         N5297697 N5297689 R_NOISELESS 1K
R_R167        N5297995 VCLP R_NOISELESS 100
R_R17         N5300247 ESDN R_NOISELESS 1M
R_R18         MID N5298335 R_NOISELESS 1T
R_R19         MID N5300937 R_NOISELESS 1T
R_R20         N5299325 MID R_NOISELESS 1
R_R21         N5299343 N5299325 R_NOISELESS 1M
R_R22         MID N5298735 R_NOISELESS 1MEG
R_R23         MID CLAMP R_NOISELESS 1MEG
R_R24         MID VSENSE R_NOISELESS 1K
R_R266        MID N5298821 R_NOISELESS 1MEG
R_R297        N5296643 N5296633 R_NOISELESS 100MEG
R_R300        MID N5296643 R_NOISELESS 10.2K
R_R301        MID N5296633 R_NOISELESS 1
R_R334        MID CLAW_CLAMP R_NOISELESS 1K
R_R335        MID CL_CLAMP R_NOISELESS 1K
R_R34         N5298259 N5298247 R_NOISELESS 10K
R_R35         MID N5298247 R_NOISELESS 1
R_R358        MID N5665974 R_NOISELESS 1
R_R359        N5665974 N5719031 R_NOISELESS 100MEG
R_R36         MID N5298259 R_NOISELESS 15.14
R_R360        MID N5719031 R_NOISELESS 1.42MEG
R_R361        MID N5781207 R_NOISELESS 1
R_R362        N5783853 N5781207 R_NOISELESS 990K
R_R363        N5783853 N57803740 R_NOISELESS 10K
R_R373        N5896484 N5896474 R_NOISELESS 100MEG
R_R374        MID N5896474 R_NOISELESS 1
R_R375        MID N5896484 R_NOISELESS 1.92MEG
R_R376        MID N5859234 R_NOISELESS 1
R_R377        N5905349 N5905339 R_NOISELESS 100MEG
R_R378        MID N5905339 R_NOISELESS 1.42MEG
R_R379        MID N5905349 R_NOISELESS 1
R_R380        MID N5296765 R_NOISELESS 1
R_R381        N5299107 N5785671 R_NOISELESS 10K
R_R382        MID N5785671 R_NOISELESS 1
R_R383        MID N5299107 R_NOISELESS 6
R_R43         MID N5299111 R_NOISELESS 1
R_R46         VCC_B 0 R_NOISELESS 1
R_R47         VCC_B N5302951 R_NOISELESS 1M
R_R48         N5302951 N5302475 R_NOISELESS 1MEG
R_R49         N5302475 0 R_NOISELESS 1T
R_R5          MID N5296613 R_NOISELESS 1
R_R50         N5302475 N5302991 R_NOISELESS 1MEG
R_R51         N5302991 VEE_B R_NOISELESS 1M
R_R52         VEE_B 0 R_NOISELESS 1
R_R53         VCC_CLP MID R_NOISELESS 1T
R_R54         N5301563 MID R_NOISELESS 1
R_R55         N5301567 N5301563 R_NOISELESS 1M
R_R56         VEE_CLP MID R_NOISELESS 1T
R_R57         N5302333 MID R_NOISELESS 1
R_R58         N5302227 N5302333 R_NOISELESS 1M
R_R59         N5301533 MID R_NOISELESS 1T
R_R6          N5296623 N5296613 R_NOISELESS 100MEG
R_R60         N5301577 MID R_NOISELESS 1
R_R61         N5301581 N5301577 R_NOISELESS 1M
R_R62         N5302261 N5302369 R_NOISELESS 1M
R_R63         N5302495 MID R_NOISELESS 1T
R_R64         N5302369 MID R_NOISELESS 1
R_R65         N5301543 MID R_NOISELESS 1T
R_R66         N5301591 MID R_NOISELESS 1
R_R67         N5301595 N5301591 R_NOISELESS 1M
R_R68         N5302295 N5302405 R_NOISELESS 1M
R_R69         N5302499 MID R_NOISELESS 1T
R_R7          MID N5296623 R_NOISELESS 1.92MEG
R_R70         N5302405 MID R_NOISELESS 1
R_R71         N5301537 VSENSE R_NOISELESS 1M
R_R72         VCC_B N5303741 R_NOISELESS 1K
R_R73         N5303741 N5303823 R_NOISELESS 1M
R_R74         N5304593 VEE_B R_NOISELESS 1K
R_R75         N5304593 N5304615 R_NOISELESS 1M
R_R76         MID VCC_CLP R_NOISELESS 1K
R_R77         VEE_CLP MID R_NOISELESS 1K
R_R78         N5304383 MID R_NOISELESS 1
R_R79         N5304315 MID R_NOISELESS 1
R_R8          N5297947 N5297941 R_NOISELESS 1K
R_R80         V11 N5304181 R_NOISELESS 100
R_R81         V12 N5304435 R_NOISELESS 100
R_R82         N5304195 MID R_NOISELESS 1
R_R83         N5304195 SW_OL_TLVx376 R_NOISELESS 100
R_RDUMMY      MID N5298565 R_NOISELESS 10K
R_RS_INN      IN- ESDN R_NOISELESS 10M
R_RS_INP      IN+ ESDP R_NOISELESS 10M
R_RX          N5298565 N5299111 R_NOISELESS 100K
R_RX1         MID N5298043 R_NOISELESS 1T
R_RX2         VIMON N5298043 R_NOISELESS 100
R_RX3         MID N5297811 R_NOISELESS 1T
R_RX4         VOUT_S N5297811 R_NOISELESS 100
R_R_CM1       ESDP MID R_NOISELESS 1T
R_R_CM2       MID ESDN R_NOISELESS 1T
V_VCM_MAX     N5298335 VCC_B 100M
V_VCM_MIN     N5300937 VEE_B -100M
V_V_GRN       N5302499 MID -60
V_V_GRP       N5301543 MID 40
V_V_ISCN      N5302495 MID -50
V_V_ISCP      N5301533 MID 32
V_V_ORN       N5304303 VCLP -630M
V_V_ORP       N5304405 VCLP 630M
X_H1          N5298565 OUT N5298043 MID BLOCK_DC_H1_TLVx376 
X_H2          N5303803 N5304383 V12 MID BLOCK_DC_H2_TLVx376 
X_H3          N5303747 N5304315 V11 MID BLOCK_DC_H3_TLVx376 
X_S1          N5303747 CLAMP N5303747 CLAMP BLOCK_DC_S1_TLVx376 
X_S2          CLAMP N5303803 CLAMP N5303803 BLOCK_DC_S2_TLVx376 
X_U10         VCC_CLP VEE_CLP VOUT_S MID N5301563 N5302333 CLAMP_AMP_LO_TLVx376 PARAMS:
+  G=1
X_U11         N5301533 N5302495 VIMON MID N5301577 N5302369 CLAMP_AMP_LO_TLVx376
+  PARAMS: G=1
X_U12         N5301543 N5302499 N5301537 MID N5301591 N5302405 CLAMP_AMP_HI_TLVx376
+  PARAMS: G=10
X_U16         MID N5304195 N5304181 N5304435 OL_SENSE_TLVx376
X_U18         VIMON MID N5303741 VCC_B CLAWP_TLVx376
X_U19         MID VIMON VEE_B N5304593 CLAWN_TLVx376
X_U21         OUT VCC VEE ESD_OUT_TLVx376
X_U22         N5301581 N5302261 CL_CLAMP MID CL_SRC_TLVx376 PARAMS: GAIN=1 IPOS=240E-3
+  INEG=-240E-3
X_U23         N5301595 N5302295 CLAMP MID GR_SRC_TLVx376 PARAMS: GAIN=1 IPOS=0.6E1
+  INEG=-0.6E1
X_U25         SW_OL_TLVx376 MID N5298247 N5298259 SW_OL_TLVx376 
X_U26         VIMON MID VCC MID IQ_SRC_TLVx376 PARAMS: GAIN=1E-3
X_U27         MID VIMON MID VEE IQ_SRC_TLVx376 PARAMS: GAIN=1E-3
X_U30         N5299343 N5300247 MID N5298735 AOL_1_TLVx376 PARAMS: GAIN=1E-4 IPOS=.5
+  INEG=-.5
X_U31         N5298735 MID MID CLAMP AOL_2_TLVx376 PARAMS: GAIN=61.86E-3 IPOS=0.28
+  INEG=-0.28
X_U32         N5299107 MID MID N5299111 ZO_SRC_TLVx376 PARAMS: GAIN=1667 IPOS=6.4E3
+  INEG=-10E3
X_U35         N5301567 N5302227 CLAW_CLAMP MID CLAW_SRC_TLVx376 PARAMS: GAIN=1
+  IPOS=80E-3 INEG=-120E-3
X_U36         MID N5298577 FEMT_TLVx376 PARAMS: NVRF=2
X_U38         N5297941 N5895272 VCC VEE VOS_SRC_TLVx376
X_U4          N5895272 N5298577 VOS_DRIFT_TLVx376 PARAMS: DC=13.658e-6  POL=1
+  DRIFT=1E-06
X_U41         ESDN MID FEMT_TLVx376 PARAMS: NVRF=2
X_U43         ESDP N5298577 VNSE_TLVx376 PARAMS: FLW=1 GLF=0.0473 RNV=66.6
X_U5          ESDN ESDP VCC VEE ESD_IN_TLVx376 
X_U6          N5297697 MID N5299325 MID N5298335 N5300937 VCM_CLAMP_TLVx376 PARAMS:
+  GAIN=1
.MODEL R_NOISELESS RES (T_ABS=-273.15)
.ENDS TLVx376
*
.SUBCKT BLOCK_DC_H1_TLVx376 1 2 3 4  
H_H1         3 4 VH_H1 1K
VH_H1         1 2 0V
.ENDS  BLOCK_DC_H1_TLVx376
*
.SUBCKT BLOCK_DC_H2_TLVx376 1 2 3 4  
H_H2         3 4 VH_H2 1
VH_H2         1 2 0V
.ENDS  BLOCK_DC_H2_TLVx376
*
.SUBCKT BLOCK_DC_H3_TLVx376 1 2 3 4  
H_H3         3 4 VH_H3 -1
VH_H3         1 2 0V
.ENDS  BLOCK_DC_H3_TLVx376
*
.SUBCKT BLOCK_DC_S1_TLVx376 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH ROFF=1E9 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S1_TLVx376
*
.SUBCKT BLOCK_DC_S2_TLVx376 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH ROFF=1E9 RON=10M VOFF=0.0V VON=10MV
.ENDS  BLOCK_DC_S2_TLVx376
*
.SUBCKT AOL_1_TLVx376 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-4 IPOS=.5 INEG=-.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_1_TLVx376
*
.SUBCKT AOL_2_TLVx376 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=61.86E-3 IPOS=0.28 INEG=-0.28
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  AOL_2_TLVx376
*
.SUBCKT CLAMP_AMP_HI_TLVx376 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_HI_TLVx376
*
.SUBCKT CLAMP_AMP_LO_TLVx376 VC+ VC- VIN COM VO+ VO- PARAMS: G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS  CLAMP_AMP_LO_TLVx376
*
.SUBCKT CLAWN_TLVx376 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0,  1.056E-5)
+(18.2, 2.9E-4)
+(35,   5.9E-4)
+(40,   7.4E-4)
+(42.7, 8.2E-4)
+(45,   9.5E-4)
+(46,  1.03E-3)
+(48.1,1.33E-3)
+(51,  1.95E-3)
.ENDS  CLAWN_TLVx376
*
.SUBCKT CLAWP_TLVx376 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.058E-5)
+(10,    2E-4)
+(15,  3.1E-4)
+(20,  4.5E-4)
+(22.5,5.5E-4)
+(25,  6.7E-4)
+(27.5,  9E-4)
+(30,  1.3E-3)
+(33, 1.88E-3)
.ENDS  CLAWP_TLVx376
*
.SUBCKT CLAW_SRC_TLVx376 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=80E-3 INEG=-120E-3 
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CLAW_SRC_TLVx376
*
.SUBCKT CL_SRC_TLVx376 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=240E-3 INEG=-240E-3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  CL_SRC_TLVx376
*
.SUBCKT ESD_IN_TLVx376 ESDN ESDP VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=250E-3 VOFF=100E-3)
S1 ESDN VCC ESDN VCC ESD_SW
S2 ESDP VCC ESDP VCC ESD_SW
S3 VEE ESDN VEE ESDN ESD_SW
S4 VEE ESDP VEE ESDP ESD_SW
.ENDS  ESD_IN_TLVx376
*
.SUBCKT ESD_OUT_TLVx376 OUT VCC VEE
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=250E-3 VOFF=100E-3)
S1 OUT VCC OUT VCC ESD_SW
S2 VEE OUT VEE OUT ESD_SW
.ENDS  ESD_OUT_TLVx376
*
.SUBCKT FEMT_TLVx376 1 2 PARAMS: NVRF=2
E1 3 0 5 0 10
R1 5 0 {1.184*PWR(NVRF,2)}
R2 5 0 {1.184*PWR(NVRF,2)}
G1 1 2 3 0 1E-6
.ENDS  FEMT_TLVx376
*
.SUBCKT GR_SRC_TLVx376 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1 IPOS=0.6E1 INEG=-0.6E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  GR_SRC_TLVx376
*
.SUBCKT IQ_SRC_TLVx376 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1E-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS  IQ_SRC_TLVx376
*
.SUBCKT OL_SENSE_TLVx376 COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>5E-3 | V(OLP,COM)>5E-3),1,0)}
.ENDS  OL_SENSE_TLVx376
*
.SUBCKT SW_OL_TLVx376 SW_OL_TLVx376 MID CAP_L CAP_R
.MODEL OL_SW VSWITCH(RON=1E-3 ROFF=1E9 VON=900E-3 VOFF=800E-3)
S1 CAP_L CAP_R SW_OL_TLVx376 MID OL_SW
.ENDS  SW_OL_TLVx376
*
.SUBCKT VCM_CLAMP_TLVx376 VIN+ VIN- IOUT- IOUT+ VP+ VP- PARAMS: GAIN=1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS  VCM_CLAMP_TLVx376
*
.SUBCKT VNSE_TLVx376 1 2 PARAMS: FLW=1 GLF=0.0473 RNV=66.6
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS  VNSE_TLVx376
*
.SUBCKT VOS_DRIFT_TLVx376 VOS+ VOS- PARAMS: DC=13.658e-6 POL=1 DRIFT=1E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS  VOS_DRIFT_TLVx376
*
.SUBCKT VOS_SRC_TLVx376 V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(-.1, 1.1E-3)
+(0.9, 1E-3)
+(1, 0)
+(4, 0)
E2 1 V- TABLE {(V(V-, REF-))}=
+(-0.1, 1E-4)
+(1, 0)
+(1.1, 0)
.ENDS  VOS_SRC_TLVx376
*
.SUBCKT ZO_SRC_TLVx376 VC+ VC- IOUT+ IOUT- PARAMS: GAIN=1667 IPOS=6.4E3 INEG=-10E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS  ZO_SRC_TLVx376
*
